US09193693B2
A solution of t-butyl piperazine-1-carboxylate (1.96 g, 10.54 mmol, 2.00 equiv), 1-bromo-3-chlorobenzene (1 g, 5.26 mmol, 1.00 equiv), BINAP (330 mg, 0.53 mmol, 0.10 equiv), Pd2(dba)3 (243.8 mg, 0.27 mmol, 0.05 equiv), NaOt-Bu (1.59 g, 16.56 mmol, 3.00 equiv), and toluene (17 mL) was placed in a 100-mL round bottom flask, stirred overnight at 100° C. in an oil bath, and concentrated under vacuum. Purification via silica gel column (PE/EA (50:1)) yielded 1.3 g (83%) of t-butyl 4-(3-chlorophenyl)piperazine-1-carboxylate as a yellow solid.

reactant | t-butyl piperazine-1-carboxylate | 10.54 mmol, 1.96 g, 2.00 equiv | N1(CCNCC1)C(=O)OC(C)(C)C | C9H18N2O2
reactant | 1-bromo-3-chlorobenzene | 5.26 mmol, 1 g, 1.00 equiv | BrC1=CC(=CC=C1)Cl | C6H4BrCl
reactant | BINAP | 0.53 mmol, 330 mg, 0.10 equiv | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | NaOt-Bu | 16.56 mmol, 1.59 g, 3.00 equiv | CC(C)(C)[O-].[Na+]
catalyst | Pd2(dba)3 | 0.27 mmol, 243.8 mg, 0.05 equiv | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | toluene | 17 mL | C1(=CC=CC=C1)C | C7H8
product | t-butyl 4-(3-chlorophenyl)piperazine-1-carboxylate | 1.3 g, 83% | ClC=1C=C(C=CC1)N1CCN(CC1)C(=O)OC(C)(C)C | C15H21ClN2O2
